US06075141
4-methyloxycarbonylphenyl chloroformate.
A 20% solution of phosgene (170 mL, 0.33 mol) in toluene was added to a 500 mL pear-shaped flask (flame-dried, N2). To the flask was added methyl-p-hydroxybenzoate (42.6 g, 0.28 mol) with stirring. Through an addition funnel was added pyridine (26.7 mL, 0.33 mol) in toluene while the reaction mixture was cooled in an ice bath so that the temperature did not exceed 20° C. The solution turned a yellowish color during the addition. The reaction mixture was stirred for 3 h, at which point the mixture was filtered on a buchner funnel. The pyridinium salts were washed with toluene (150 mL) and the combined organic phase washed with 1 N HCl (2×), water (2×), dried over CaCI2 and Na2SO4, and the toluene removed in vacuo to yield yellowish crystals. After continued drying, the product (38 g, 63%) turned a greyish color. m.p. 52-53° C. (lit. 51-52° C.).

reactant | phosgene | 0.33 mol, 170 mL | C(=O)(Cl)Cl | CCl2O
reactant | methyl-p-hydroxybenzoate | 0.28 mol, 42.6 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | pyridine | 0.33 mol, 26.7 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-methyloxycarbonylphenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)C(=O)OC | C9H7ClO4
